US07902252B2
6.10. Synthesis of ±(1aS,5aS)-1a,4,5,5a-tetrahydro-1H-4-aza-cyclopropa[α]pentalene-3-carboxylic acid (138)
The title compound was synthesized from ±(1aS,5aS)-1a,4,5,5a-tetrahydro-1H-4-aza-cyclopropa[α]pentalene-3-carboxylic acid ethyl ester (65 mg, 0.34 mmol) and lithium hydroxide (143 mg, 3.40 mmol in 5 mL water), according to General Procedure 7. The resulting product was purified by crystallization from Et2O. 35 mg. 1H NMR (METHANOL-d4) δ: 6.61 (s, 1H), 2.90 (dd, J=16.7, 6.3 Hz, 1H), 2.69 (d, J=16.7 Hz, 1H), 1.88-2.02 (m, 2H), 0.95-1.04 (m, 1H), 0.07 (q, J=4.0 Hz, 1H). LCMS m/e 164 (M+H). Purity ˜100% (HPLC).

reactant | (1aS,5aS)-1a,4,5,5a-tetrahydro-1H-4-aza-cyclopropa[α]pentalene-3-carboxylic acid ethyl ester | 0.34 mmol, 65 mg | C(C)OC(=O)C=1NC=2C[C@H]3[C@@H](C2C1)C3 | C11H13NO2
reactant | lithium hydroxide | 3.40 mmol, 5 mL, 143 mg | [OH-].[Li+]
product | (1aS,5aS)-1a,4,5,5a-tetrahydro-1H-4-aza-cyclopropa[α]pentalene-3-carboxylic acid | C1[C@H]2[C@@H]1CC=1NC(=CC21)C(=O)O | C9H9NO2
